* C:\Users\franc\OneDrive\Escritorio\LTSpice_50n\inverter_sim_tran.asc
Vin in 0 PULSE(0 1 2n 10p 0 1)
XX1 in out VDD 0 inverter
C1 out 0 10p

* block symbol definitions
.subckt inverter in out VDD DGND
M1 out in DGND DGND N_50n l=50n w=0.5u
M2 VDD in out VDD P_50n l=50n w=1u
.include cmosedu_models.txt
.ends inverter

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\franc\AppData\Local\LTspice\lib\cmp\standard.mos
.include cmosedu_models.txt
VDD VDD 0 DC 1
.tran 0 50n 0 10p
.backanno
.end
